* Z:\home\dries\Projects\SignaalVerwerking\Chebyshev\bode.asc
R1 N001 vin 6.1426K
V1 vin 0 AC 1
XU1 N001 0 N002 opampIdeal
C1 N002 N001 1e-8
R2 N002 N001 26.648K
R3 vout N001 8.6869K
XU2 N003 0 N004 opampIdeal
XU3 N005 0 vout opampIdeal
R4 N003 N002 8.6869K
R5 N005 N004 8.6869K
R6 vout N005 8.6869K
C2 N004 N003 1e-8
;ac dec 100 100 1MEG
.tran 10m
.lib Z:\home\dries\Projects\SignaalVerwerking\docs\OpampModel\OPAMP_PSPICE\opampIdeal.cir
.backanno
.end
