* Z:\home\dries\Projects\Signaalverwerking\netlists\stap_tl084.asc
R3 N006 vin 19894
R1 N002 N005 19894
R2 N004 N003 19894
C2 Vout N004 1n
C1 N003 N002 21.33n
R6 N005 N001 19894
R4 N003 N006 19894
R5 Vout N001 59683
V1 vin 0 PWL(0 0 0.1ms 1v)
V2 vp 0 15
V3 0 vn 15
XU4 N006 N001 vp vn N005 TL084
XU5 0 N002 vp vn N003 TL084
XU6 0 N004 vp vn Vout TL084
.tran 7ms
.lib Z:\home\dries\Projects\Signaalverwerking\netlists\TL084.cir
.backanno
.end
